US07851473B2
(4) 1-[4-(2,4-Dichlorophenyl)-1,3-thiazol-2-yl]piperazine
A 4 N solution (70 ml) of hydrogen chloride in ethyl acetate was added to a solution of tert-butyl 4-[4-(2,4-dichlorophenyl)-1,3-thiazol-2-yl]piperazine-1-carboxylate (2.31 g, 5.58 mmol) in ethyl acetate (70 ml), the mixture was stirred at room temperature for 12 hours, and the solvent was distilled off under reduced pressure. The residue was dissolved in water, neutralized with a 1 N sodium hydroxide aqueous solution, and extracted with chloroform. The extract was washed with water, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to give 1.46 g (83.3%) of the desired product as a solid.

reactant | hydrogen chloride | Cl | ClH
reactant | tert-butyl 4-[4-(2,4-dichlorophenyl)-1,3-thiazol-2-yl]piperazine-1-carboxylate | 5.58 mmol, 2.31 g | ClC1=C(C=CC(=C1)Cl)C=1N=C(SC1)N1CCN(CC1)C(=O)OC(C)(C)C | C18H21Cl2N3O2S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
product | 1-[4-(2,4-Dichlorophenyl)-1,3-thiazol-2-yl]piperazine | 1.46 g, 83.3% | ClC1=C(C=CC(=C1)Cl)C=1N=C(SC1)N1CCNCC1 | C13H13Cl2N3S
